US07285558B2
5-{2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-N-(2-morpholin-4-ylethyl)-1H-pyrrole-3-carboxamide
This compound was synthesized by the reaction of 5-{2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carboxylic acid and 2-morpholin-4-ylethanamine using diethyl cyanophosphonate as a coupling reagent. Mass: 621.20 (M+H).

reactant | 5-{2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carboxylic acid | ClC=1C=C2C(=CNC2=CC1)CN1N=C2N(C(N(C(C2=C1C1=CC(=CN1C)C(=O)O)=O)C)=O)CC(C)C | C25H25ClN6O4
reactant | 2-morpholin-4-ylethanamine | N1(CCOCC1)CCN | C6H14N2O
reactant | diethyl cyanophosphonate | C(#N)P(OCC)(OCC)=O | C5H10NO3P
product | 5-{2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-N-(2-morpholin-4-ylethyl)-1H-pyrrole-3-carboxamide | ClC=1C=C2C(=CNC2=CC1)CN1N=C2N(C(N(C(C2=C1C1=CC(=CN1C)C(=O)NCCN1CCOCC1)=O)C)=O)CC(C)C | C31H37ClN8O4
